US04818273
Preparation of N-(2-trifluoromethylphenyl)-7-chloro-5-methyl-1,2,4-triazolo[1,5-a]pyrimidine-2-sulfonamide
Phosphorus oxychloride (135 ml, 1.47 mol) was diluted with 335 ml of dry acetonitrile and added to 15 g (40 mmol) of N-(2-trifluoromethylphenyl)-7-hydroxy-5-methyl-1,2,4-triazolo[1,5-a]pyrimidine-2-sulfonamide in a one liter flask and heated to reflux with stirring. After about 3 days, the reaction was found to be complete by thin layer chromatography. Volatiles were removed by evaporation under reduced pressure until the mixture became very viscous and the residue was poured onto about one liter of ice and water with stirring. After about 30 minutes, the solid that formed was collected by filtration, washed with ice water, and dried under reduced pressure at room temperature. It was then dissolved in methylene chloride and the resulting solution dried over magnesium sulfate for about five minutes and filtered. The volatiles were removed from the filtrate by evaporation under reduced pressure to obtain the title compound as a white solid residue. The product, the structure of which was confirmed by NMR analysis, amounted to 13.4 g (85.4 percent of theory).

reactant | Phosphorus oxychloride | 1.47 mol, 135 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | N-(2-trifluoromethylphenyl)-7-hydroxy-5-methyl-1,2,4-triazolo[1,5-a]pyrimidine-2-sulfonamide | 40 mmol, 15 g | FC(C1=C(C=CC=C1)NS(=O)(=O)C1=NN2C(N=C(C=C2O)C)=N1)(F)F | C13H10F3N5O3S
solvent | acetonitrile | 335 ml | C(C)#N | C2H3N
product | N-(2-trifluoromethylphenyl)-7-chloro-5-methyl-1,2,4-triazolo[1,5-a]pyrimidine-2-sulfonamide | FC(C1=C(C=CC=C1)NS(=O)(=O)C1=NN2C(N=C(C=C2Cl)C)=N1)(F)F | C13H9ClF3N5O2S
